US07259165B2
Preparation of 1-Methyl-4-{5-nitro-6-[(phenylsulfonyl)methyl]pyridin-2-yl}piperazine
A stirred solution of 1-methyl-4-(5-nitropyridin-2-yl)piperazine (1.10 g, 5.00 mmol) and chloromethylphenylsulfone (0.950 g, 5.00 mmol) in dry THF, under nitrogen, is cooled to −60° C., treated with 1.0 M KOtBu in THF (10.0 mL, 10.0 mmol), allowed to warm to −10° C. over a 1 h period, quenched with acetic acid, treated sequentially with water and saturated aqueous NaHCO3 and extracted with CH2Cl2. The combined extracts are washed sequentially with water and brine, dried over MgSO4 and concentrated in vacuo. The resultant residue is crystallized from EtOAc to give the title compound as a yellow solid, 1.60 g (85% yield), mp: 170°-172° C., identified by mass spectral and NMR analyses.

reactant | 1-methyl-4-(5-nitropyridin-2-yl)piperazine | 5.00 mmol, 1.10 g | CN1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C10H14N4O2
reactant | chloromethylphenylsulfone | 5.00 mmol, 0.950 g | ClCS(=O)(=O)C1=CC=CC=C1 | C7H7ClO2S
reactant | KOtBu | 1.0 M | CC(C)(C)[O-].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10.0 mmol, 10.0 mL | C1CCOC1 | C4H8O
product | 1-Methyl-4-{5-nitro-6-[(phenylsulfonyl)methyl]pyridin-2-yl}piperazine | 85% yield | CN1CCN(CC1)C1=NC(=C(C=C1)[N+](=O)[O-])CS(=O)(=O)C1=CC=CC=C1 | C17H20N4O4S
